US08198453B2
Step 1. (R)-1-tert-butyl 3-ethyl piperidine-1,3-dicarboxylate
To a 20 L of round bottom flask was placed (R)-ethyl piperidine-3-carboxylate tartaric acid salt (2.6 kg, 8.47 mol, 1 eq) and CH2Cl2 (14 L). To the above solution, at 0° C. was added TEA (2.137 kg, 21.17 mol, 2.5 eq), followed by drop wise addition of (Boc)2O (2.132 kg, 9.74 mol, 1.15 eq). The mixture was allowed to stir overnight at room temperature. The mixture was washed with saturated citric acid solution (3×2.5 L), saturated NaHCO3 solution (3×2.5 L) and brine (2×2 L). The organic phase was dried over Na2SO4, filtered and the filtrate was evaporated to give colorless oil (2.2 kg, yield 100%).

reactant | (R)-ethyl piperidine-3-carboxylate tartaric acid salt | 8.47 mol, 2.6 kg, 1 eq | C(C(O)C(O)C(=O)O)(=O)O.N1C[C@@H](CCC1)C(=O)OCC
reactant | (Boc)2O | 9.74 mol, 2.132 kg, 1.15 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 14 L | C(Cl)Cl | CH2Cl2
product | (R)-1-tert-butyl 3-ethyl piperidine-1,3-dicarboxylate | 2.2 kg, yield 100% | N1(C[C@@H](CCC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
